US04434173
4,5-Di(bromomethyl)-2-oxo-1,3-dioxole
To a stirred solution of 1.22 g of 4-bromomethyl-5-methyl-2-oxo-1,3-dioxole in 30 ml of carbon tetrachloride was added 1.125 g of N-bromosuccinimide. The resulting solution was heated under reflux and irradiated for 15 minutes. The reaction mixture was filtered hot, cooled, and then evaporated in vacuo to give the title product as a yellow oil.

reactant | 4-bromomethyl-5-methyl-2-oxo-1,3-dioxole | 1.22 g | BrCC=1OC(OC1C)=O | C5H5BrO3
reactant | N-bromosuccinimide | 1.125 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4,5-Di(bromomethyl)-2-oxo-1,3-dioxole | BrCC=1OC(OC1CBr)=O | C5H4Br2O3
